US06939928B1
To 160 ml (120 mmol) of a THF solution of phenylmagnesium chloride, a solution of 8.38 ml (100 mmol) of 2-cyclopentenone in 70 ml of THF was dropwise added with ice cooling. The mixture was stirred at 0° C. for 1 hour and then further stirred at room temperature for 1 hour. Then, 200 ml of an ammonium chloride saturated aqueous solution was added. To the reaction solution, diethyl ether was added to perform extraction. The resulting ether solution was dried over magnesium sulfate, and the solvent was distilled off to obtain of a crude product of phenylcyclopentenol as a gold liquid (17.5 g). In a glass tube oven, 6 g of the crude product was placed, and the product was heated at 180 to 190° C. for 1 hour at atmospheric pressure, then cooled to room temperature and slowly heated (finally) to 195° C. under reduced pressure (1 to 4 mmHg) As a result, 2.5 g of a white crystal was sublimed (51.3%).

reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | 2-cyclopentenone | 100 mmol, 8.38 ml | C1(C=CCC1)=O | C5H6O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 120 mmol, 160 ml | C1CCOC1 | C4H8O
product | phenylcyclopentenol | 17.5 g | C1(=CC=CC=C1)C1=C(CCC1)O | C11H12O
